US08377923B2
5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzohydrazide (782 mg) was dissolved in THF (10 ml), and triethylamine (0.510 ml) was added thereto, followed by ice-cooling. Ethyl chloro(oxo)acetate (0.200 ml) was added thereto, followed by stirring at room temperature overnight. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was washed with diisopropylether. The resulting solid (650 mg) was dissolved in dichloromethane (10 ml), and pyridine (0.385 ml) was added thereto, followed by cooling to −78° C. Trifluoromethanesulfonic anhydride (0.385 ml) was added to the reaction solution and was elevated to room temperature, followed by stirring for 30 minutes. Saturated aqueous sodium bicarbonate was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=100:1). The resulting solid was washed with diisopropylether, to obtain, as a yellowish white solid, ethyl 5-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,3,4-oxadiazole-2-carboxylate (240 mg).

reactant | 5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzohydrazide | 782 mg | ClC=1C=CC(=C(C(=O)NN)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C20H19ClF3N5O2
reactant | triethylamine | 0.510 ml | C(C)N(CC)CC | C6H15N
reactant | Ethyl chloro(oxo)acetate | 0.200 ml | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | Water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | ethyl 5-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,3,4-oxadiazole-2-carboxylate | 240 mg | ClC=1C=CC(=C(C1)C1=NN=C(O1)C(=O)OCC)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C24H21ClF3N5O4
